US07544717B2
A.18. N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(6-ethyl-1-methyl-1,2,3,4-tetrahydroquinolin-4-yl)amino]-2-hydroxypropyl}acetamide
To a solution of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(6-ethyl-1-methyl-1,2,3,4-tetrahydroquinolin-4-yl)amino]butan-2-ol (0.218 g) in dichloromethane (15 mL) was added 1-acetylimidazole (0.062 g). The mixture was stirred overnight at room temperature. The mixture was partitioned between dichloromethane and brine, and the organic was extracted three times, dried with sodium sulfate, filtered, and concentrated. A silica gel column was run for purification using 3% MeOH in dichloromethane with 0.5% NH4OH as the solvent solution. HPLC still showed small amounts of starting material present, so the mixture was washed one time with 1N HCl, dried with magnesium sulfate, filtered, and concentrated. 0.115 g of the title product were recovered. (48% yield). MS (ESI+) for C24H31F2N3O2 m/z 432.18 (M+H)+.

reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(6-ethyl-1-methyl-1,2,3,4-tetrahydroquinolin-4-yl)amino]butan-2-ol | 0.218 g | N[C@H]([C@@H](CNC1CCN(C2=CC=C(C=C12)CC)C)O)CC1=CC(=CC(=C1)F)F | C22H29F2N3O
reactant | 1-acetylimidazole | 0.062 g | C(C)(=O)N1C=NC=C1 | C5H6N2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(6-ethyl-1-methyl-1,2,3,4-tetrahydroquinolin-4-yl)amino]-2-hydroxypropyl}acetamide | 48% yield | FC=1C=C(C[C@@H]([C@@H](CNC2CCN(C3=CC=C(C=C23)CC)C)O)NC(C)=O)C=C(C1)F | C24H31F2N3O2
